US07312330B2
B. N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2,6-naphthyridin-1-amine
6-Benzyl-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2,6-naphthyridin-1-amine (280 mg, 0.73 mmol) was dissolved in methanol (25 mL) and palladium hydroxide was added (0.2 g, 20% wt). The mixture was shaken on a Parr Shaker under H2 (g) atmosphere (60 PSI) for 1 day. The mixture was filtered through celite and evaporated to give 0.21 g of material as grey crystals (quant.), which was used directly in the next step.

reactant | 6-Benzyl-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2,6-naphthyridin-1-amine | 0.73 mmol, 280 mg | C(C1=CC=CC=C1)N1CC=2C=CN=C(C2CC1)NC1=CC=C(C=C1)C(F)(F)F | C22H20F3N3
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2,6-naphthyridin-1-amine | 0.21 g | FC(C1=CC=C(C=C1)NC1=NC=CC=2CNCCC12)(F)F | C15H14F3N3
